US06303593B1
1-(1-Naphthoyl)-3-(SR)-hydroxymethyl-4-(RS)-thiophen-3-ylpyrrolidine
A solution of 0.48 g (1.31 mmol) of 1-(1-naphthoyl)-3-(SR)-carbomethoxy-4-(RS)-(3-thienyl)pyrrolidine and 2.6 mL (5.24 mmol) of LiBH4 (2M in THF) in 10 mL of THF was stirred at rt for 12 h. To the reaction mixture was added 50 mL of CH2Cl2 and 5 mL of 0.5N HCl. The fractions were partitioned and the aqueous fraction was extracted twice with CH2Cl2. The combined organic fractions were dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chomatography to give 0.41 g of the title compound. 1H NMR (CDCl3) δ3.45 (m, 2H), 7.47-7.90 (m, 8H);

reactant | 1-(1-naphthoyl)-3-(SR)-carbomethoxy-4-(RS)-(3-thienyl)pyrrolidine | 1.31 mmol, 0.48 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C1=CSC=C1)C(=O)OC | C21H19NO3S
reactant | LiBH4 | 5.24 mmol, 2M, 2.6 mL | [Li+].[BH4-]
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 0.5N, 5 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(1-Naphthoyl)-3-(SR)-hydroxymethyl-4-(RS)-thiophen-3-ylpyrrolidine | 0.41 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C1=CSC=C1)CO | C20H19NO2S
